US04780477
To a suspension of 1.37 g of 1-(2-diisopropylaminoethyl)isatin and 1.20 g of 4-benzylsemicarbazide hydrochloride in 20 ml of a mixture of ethanol and water (2:1) was added 0.50 g of sodium acetate. The mixture was stirred for 18 hours at room temperature, and then concentrated under reduced pressure. An aqueous sodium bicarbonate solution was added to the residue. The precipitates were collected by filtration, washed with water, and recrystallized from aqueous ethanol to obtain 1.21 g of (E)-1-(2-diisopropylaminoethyl)isatin 3-(4-benzylsemicarbazone) having a melting point of 164°-165° C.

reactant | 1-(2-diisopropylaminoethyl)isatin | 1.37 g | C(C)(C)N(CCN1C(=O)C(=O)C2=CC=CC=C12)C(C)C | C16H22N2O2
reactant | 4-benzylsemicarbazide hydrochloride | 1.20 g | Cl.C(C1=CC=CC=C1)NC(NN)=O
reactant | ethanol | C(C)O | C2H6O
reactant | sodium acetate | 0.50 g | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | (E)-1-(2-diisopropylaminoethyl)isatin 3-(4-benzylsemicarbazone) | 1.21 g | C(C1=CC=CC=C1)NC(N\N=C/1\C(N(C2=CC=CC=C12)CCN(C(C)C)C(C)C)=O)=O | C24H31N5O2
